US07910588B2
Add sodium cyanide (78.46 mg, 1.60 mmol, 2.4 eq) to a solution of toluene-4-sulfonic acid 1-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-piperidin-4-ylmethyl ester (0.36 g, 0.667 mmol, 1 eq) in dimethyl sulfoxide (5 mL). Heat the solution to 50° C. with stirring for 5.75 hr. and then cool to room temperature. Add water (20 mL) and extract the aqueous layer three times with DCM (20 mL). Combine the organic extracts, dry over magnesium sulphate, filter and concentrate. Purify by flash chromatography on a 40 g silica gel column, eluting with a gradient of 2-10% methanol in DCM. Further purify by high pH reverse phase HPLC (UV guided). Dissolve this material (148 mg, 0.38 mmol) in the minimum quantity of 50% aqueous acetonitrile. Add 2M aqueous hydrogen chloride (190 μL, 0.38 mmol) and lyophilize to give {1-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-piperidin-4-yl}-acetonitrile hydrochloride (166 mg, 58%). MS (m/z): 395.2 (M+1).

reactant | sodium cyanide | 1.60 mmol, 78.46 mg, 2.4 eq | [C-]#N.[Na+]
reactant | toluene-4-sulfonic acid 1-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-piperidin-4-ylmethyl ester | 0.667 mmol, 0.36 g, 1 eq | CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1N1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C27H37N7O3S
reactant | hydrogen chloride | 0.38 mmol, 2M, 190 μL | Cl | ClH
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | acetonitrile | C(C)#N | C2H3N
product | {1-[4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-piperidin-4-yl}-acetonitrile hydrochloride | 166 mg, 58% | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1N1CCC(CC1)CC#N | InChI=1S/C21H30N8.ClH/c1-17-19(15-25-26(17)2)16-27-11-13-29(14-12-27)21-20(23-7-8-24-21)28-9-4-18(3-6-22)5-10-28;/h7-8,15,18H,3-5,9-14,16H2,1-2H3;1H
